US09029371B2
To a solution of 4-benzyl-2-(4-benzyloxy-phenyl)-morpholine (8.35 g; 23.2 mmol) in MeOH (100 mL) was added a catalytic amount of palladium hydroxide (0.65 g; ˜20 wt % on carbon, wet). The resulting mixture was treated with hydrogen (1 atm.) at RT, overnight. Subsequently, the mixture was filtered over kieselguhr, rinsed with MeOH, and concentrated in vacuo to afford 4-morpholin-2-yl-phenol (4.00 g), which was used as such.

reactant | 4-benzyl-2-(4-benzyloxy-phenyl)-morpholine | 23.2 mmol, 8.35 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | palladium hydroxide | 0.65 g | [OH-].[Pd+2].[OH-]
product | 4-morpholin-2-yl-phenol | 4.00 g | N1CC(OCC1)C1=CC=C(C=C1)O | C10H13NO2
